US06498251B1
Synthesis Example 16b 2,3,4,4a,5,6-Hexahydro-6-trifluoroacetyl-1H-pyrazino[1,2-a]quinoxaline Hydrochloride
A 80 μl portion of hydrochloric acid-methanol and 0.1 g of 10% Pd-C were added to 3 ml of ethanol solution containing 93 mg (0.22 mmol) of 3-benzyloxycarbonyl-2,3,4,4a,5,6-hexahydro-6-trifluoroacetyl-1H-pyrazino[1,2-a]quinoxaline, and 3 hours of catalytic hydrogenation was carried out at room temperature. The catalyst was filtered, the solvent was removed by evaporation under a reduced pressure and then the resulting residue was recrystallized from methanol-isopropyl ether to obtain 43 mg (61% in yield) of the title compound.

reactant | hydrochloric acid methanol | Cl.CO
reactant | 3-benzyloxycarbonyl-2,3,4,4a,5,6-hexahydro-6-trifluoroacetyl-1H-pyrazino[1,2-a]quinoxaline | 0.22 mmol, 93 mg | C(C1=CC=CC=C1)OC(=O)N1CC2N(C3=CC=CC=C3N(C2)C(C(F)(F)F)=O)CC1 | C21H20F3N3O3
catalyst | Pd-C | 0.1 g | [Pd] | Pd
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2,3,4,4a,5,6-Hexahydro-6-trifluoroacetyl-1H-pyrazino[1,2-a]quinoxaline Hydrochloride | Cl.FC(C(=O)N1CC2N(C3=CC=CC=C13)CCNC2)(F)F | InChI=1S/C13H14F3N3O.ClH/c14-13(15,16)12(20)19-8-9-7-17-5-6-18(9)10-3-1-2-4-11(10)19;/h1-4,9,17H,5-8H2;1H
